US05849710
To a solution of 5-amino oxindole (2 g, 13.5 mmol) in 80 ml of water/dioxane 3:1 was added sodium hydroxide 1N until obtaining pH 10 and then di-t-Butyl pyrocarbonate (3.5 g, 16.2 mmol). The reaction was stirred for 3 h maintaining pH 10. After extraction with 3×10 ml of ethyl acetate, the extracted were dried over sodium sulphate and evaporated obtaining 2.4 g of 5-t-Butoxycarbonylamino oxindole (71% yield).

reactant | 5-amino oxindole | 13.5 mmol, 2 g | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-t-Butyl pyrocarbonate | 16.2 mmol, 3.5 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water dioxane | 80 ml | O.O1CCOCC1
product | 5-t-Butoxycarbonylamino oxindole | 2.4 g, 71% yield | C(C)(C)(C)OC(=O)NC=1C=C2CC(NC2=CC1)=O | C13H16N2O3
